Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Erythromycin Base
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Laparascopic left salpingectomy

 
History of Present Illness:
Patient initiall present to the ED on ___.  At that time, she 
had abd pain and work-up suggested a stable hemorrhagic ovarian 
cyst without evidence of active bleeding.  At that time, her HCG 
was negative, she has a Paragard IUD in lace.  Her ovaries 
appeared normal on US and she had a moderate amount of free 
fluid on CT and US c/w blood.

She was observed in the ED and had serial HCTs.  They were 
stable, her pain was diminished and she had a non-surgical abd 
exam.

Since that time, she had a few days of cramping.  She had 
intercourse with her husband over the weekend and experienced 
pelvic pain which is unusual for her.

On day of admission she presented with acute onset abdominal 
pain, mostly in the LLQ.  Sharp, worsened with movement, 
constant.  She also reports pain  hroughout her abd, including 
RUQ, but the most painful area is LLQ.

She denies any n/v, f/c.  She denies any lightheadedness, 
shortness of breath or chest pain.

She had an episode of hypotension in the ED to the ___ which 
responded to fluid.

 
Past Medical History:
none
 
Social History:
no tobacco or drugs, occasional EtOH.  Works as a ___ for 
Children's Hosp.  Denies DV.

 
Physical Exam:
AVSS
NAD
RRR
CTAB
Abd: soft, NT, ND
incision: C/D/I 
Ext: no calf tenderness
 
Pertinent Results:
___ 11:23AM BLOOD Hct-27.9*
___ 01:45AM BLOOD WBC-11.8*# RBC-3.56* Hgb-10.8* Hct-30.0* 
MCV-84# MCH-30.3 MCHC-36.0* RDW-13.2 Plt ___
___ 01:45AM BLOOD Neuts-82* Bands-1 Lymphs-13* Monos-3 
Eos-0 Baso-0 Atyps-1* ___ Myelos-0
___ 01:45AM BLOOD Plt Smr-NORMAL Plt ___ LPlt-1+
___ 01:45AM BLOOD Glucose-129* UreaN-13 Creat-0.7 Na-135 
K-3.8 Cl-101 HCO3-24 AnGap-14
___ 01:45AM BLOOD ALT-10 AST-11 AlkPhos-69 TotBili-0.3
___ 01:45AM BLOOD Lipase-32
___ 01:45AM BLOOD Albumin-4.0
___ 01:45AM BLOOD HCG-1190
___ 07:36AM BLOOD Glucose-127* Lactate-1.2 Na-128* K-4.1 
Cl-107
 
Brief Hospital Course:
This patient is a ___ gravida 2, para 2 who presented to 
the emergency department with acute onset abdominal pain. The  
patient had been seen one week prior
with milder symptoms and at the time was sent home after a 
pregnancy test was found to be negative and hospitalized 
observation showed no change in her abdominal exam. On the day 
of her presentation, the patient reported significantly more 
pain. This time her pregnancy test was positive. In the ED she 
had intermittent hypotension that was associated with a 
distended abdomen. An ultrasound evaluation showed fluid in the 
pelvis and adnexa that could not be visualized. Given the 
concern for a ruptured ectopic pregnancy, the patient was 
recommended for surgical management via a laparoscopic approach. 
She was counseled about the possible salpingectomy, possible 
oophorectomy and possible conversion to laparotomy. After 
reviewing the risks and benefits, the patient signed the 
informed consent form. She is Rh positive.

The patient underwent an exam under anesthesia, IUD removal, and 
laparoscopic left salpingectomy.  Intraoperative 1000ml of 
hemoperitoneum was noted.  Given the concern for significant  
blood loss anemia, the decision was made to proceed with 
transfusion of 2 units of blood. A stat hematocrit returned 
confirming our suspicion with an hematocrit noted to be 20.  
Patient tolerated the procedure well and her post operative 
hematocrit was 27.9.  In the PACU, the patient's Foley was 
removed.  She experience urinary retention and was bladder 
scanned for nearly 1000cc of urine.  Foley was replaced.  
Patient was then admitted for trial of void.  Foley was again 
removed.  Once on the floor patient was again scanned for nearly 
1000cc of urine.  Her foley was replaced and left in overnight.  
On POD#1, patient's foley was removed and she spontaneously 
voided.  The rest of her post-operative course was uneventful 
with normal ambulation, tolerance of a regular diet, and pain 
well controlled with PO pain medications.  Patient was 
discharged on POD#1 in good condition.   

 
Medications on Admission:
none
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.  
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
3. Iron (Ferrous Sulfate) 325 mg (65 mg Iron) Tablet Sig: One 
(1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ruptured tubal pregnancy
Blood loss anemia

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call your MD if you have any fever (>100.4), worsening 
abdominal pain, heavy vaginal bleeding, vomiting, difficulty 
urinating or any other worrisome symptom.
.
No driving while on narcotics
.
Please keep your post-op appt scheduled below.
 
Followup Instructions:
___